US03989746
Preparation of 4-Bromo-1-chloro-2-methylnaphthalene
To a solution of 4-bromo-2-methyl-1-naphthlamine (10 g) in a mixture of concd. hydrochloric acid (14 ml) and water (14 ml) was added dropwise a solution sodium nitrite (2.8 g) in water (7 ml) at -5°-0° C. The diazonium solution was stirred at 0°-5° C an hour. There was added to it an ice-cooled solution of cuprous chloride (4.4 g) in concd. hydrochloric acid (25 ml). The mixture was stirred at 60° C an hour, and the precipitate was extracted with ether and dried. After evaporating the solvent, the residue was distilled to give a colorless oil(5.4 g, 58 %), bp11 127°-132° C.

reactant | 4-bromo-2-methyl-1-naphthlamine | 10 g | BrC1=CC(=C(C2=CC=CC=C12)N)C | C11H10BrN
reactant | hydrochloric acid | 14 ml | Cl | ClH
reactant | sodium nitrite | 2.8 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | water | 7 ml | O | H2O
solvent | water | 14 ml | O | H2O
product | 4-Bromo-1-chloro-2-methylnaphthalene | 5.4 g, 58 % | BrC1=CC(=C(C2=CC=CC=C12)Cl)C | C11H8BrCl
